US04714774
In methylene chloride were dissolved 3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl bromide (2.8 g), triethylamine (6.2 ml) and dimethylaminopyridine (10 mg). To the solution was added dropwise acetic anhydride (4.2 ml) under ice-cooing. The reaction was allowed to proceed for 3 hours, and there was added methanol (5 ml). The mixture was left standing for 10 minutes. The solvent was evaporated off to leave syrup, which was dissolved in chloroform. The solution was washed with water, dried and concentrated. The resulting syrup was purified by means of a silica gel flash chromatography (chloroform) to give 3-(3-acetoxy-4-acetyl 2-propylphenoxy)propyl bromide (2.7 g) as colorless and transparent syrup.

reactant | 3-(4-acetyl-3-hydroxy-2-propylphenoxy)propyl bromide | 2.8 g | C(C)(=O)C1=C(C(=C(OCCCBr)C=C1)CCC)O | C14H19BrO3
reactant | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | 10 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 4.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 5 ml | CO | CH4O
product | 3-(3-acetoxy-4-acetyl 2-propylphenoxy)propyl bromide | 2.7 g | C(C)(=O)OC=1C(=C(OCCCBr)C=CC1C(C)=O)CCC | C16H21BrO4
